US04141893
Reaction of a formyl cyclohexanone derivative with para-toluenesulfonylazide effects displacement of the formyl group by a diazo moiety to provide a diazocyclohexanone derivative. For example, a formyl cyclohexanone derivative such as 2-phenyl-2-(2-cyanoethyl)-6-formylcyclohexanone can be reacted with about an equimolar quantity of para-toluene-sulfonylazide in the presence of dimethylamine or diethylamine, in an organic solvent such as diethyl ether, to provide, for instance, 2-phenyl-2-(2-cyanoethyl)-6-diazocyclohexanone.

reactant | formyl cyclohexanone | C(=O)C1C(CCCC1)=O | C7H10O2
reactant | para-toluenesulfonylazide | C1(=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-])C | C7H7N3O2S
product | diazocyclohexanone | [N+](=[N-])=C1C(CCCC1)=O | C6H8N2O
